US04647569
An intimate mixture of 2-amino-5-nitropyridine (19.0 g) and 1,1-bis(phenylsulphonyl)-2-ethoxyethene (30 g) was heated at 180°-190° C. for 1 hour. After cooling, the solid cake was pulverised and recrystallised from a mixture of methyl ethyl ketone and methanol, to give 1,1-bis(phenylsulphonyl)-2-(5-nitropyrid-2-ylamino)ethene (28 g) m.p. 229°-231° C.

reactant | 2-amino-5-nitropyridine | 19.0 g | NC1=NC=C(C=C1)[N+](=O)[O-] | C5H5N3O2
reactant | 1,1-bis(phenylsulphonyl)-2-ethoxyethene | 30 g | C1(=CC=CC=C1)S(=O)(=O)C(=COCC)S(=O)(=O)C1=CC=CC=C1 | C16H16O5S2
product | 1,1-bis(phenylsulphonyl)-2-(5-nitropyrid-2-ylamino)ethene | 28 g | C1(=CC=CC=C1)S(=O)(=O)C(=CNC1=NC=C(C=C1)[N+](=O)[O-])S(=O)(=O)C1=CC=CC=C1 | C19H15N3O6S2
